US06143764
N-(2-Amino-4-chlorophenyl)-N'-{4-[(6,7 -dimethoxy-4-quinolyl)oxy]phenyl}urea [239]
N-(4-Chloro-2-nitrophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea (158 mg) was dissolved in chloroform/methanol/water (10 ml/70 ml/5 ml), sodium thiosulfate (1.01 g) was added, and the admixture was stirred at 60° C. for 37 minutes. The reaction mixture was extracted 2 times with chloroform, and the organic layer was then washed with brine and dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation, and the resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 33 mg of the title compound (yield: 22%).

reactant | N-(4-Chloro-2-nitrophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 158 mg | ClC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)[N+](=O)[O-] | C24H19ClN4O6
reactant | sodium thiosulfate | 1.01 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform methanol water | 10 ml | C(Cl)(Cl)Cl.CO.O
product | N-(2-Amino-4-chlorophenyl)-N'-{4-[(6,7 -dimethoxy-4-quinolyl)oxy]phenyl}urea | 33 mg, yield: 22% | NC1=C(C=CC(=C1)Cl)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H21ClN4O4
